US05622976
To a solution of 4-nitrobenzoyl chloride (10 g) in tetrahydrofuran (150 ml) was added a suspension of ethyl 2-amino-2-hydroxyiminoacetate (7.1 g) in tetrahydrofuran (30 ml). After stirring for 2 hours, the precipitates were collected by filtration and washed with diethyl ether to afford ethyl 2-amino-2-(4-nitrobenzoyloxyimino)acetate (12.19 g).

reactant | 4-nitrobenzoyl chloride | 10 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | ethyl 2-amino-2-hydroxyiminoacetate | 7.1 g | NC(C(=O)OCC)=NO | C4H8N2O3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 2-amino-2-(4-nitrobenzoyloxyimino)acetate | 12.19 g | NC(C(=O)OCC)=NOC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C11H11N3O6
